US09145380B2
a) (E)-2-(2-(4-Chloro-2-methoxyphenyl)vinylsulfonamido)-5-cyanobenzenesulfonamide
The title compound was synthesized as described for Example 178 in 27% yield, starting from 2-amino-5-cyanobenzenesulfonamide and 2-(4-chloro-2-methoxy-phenyl)-ethenesulfonyl chloride.

reactant | 2-amino-5-cyanobenzenesulfonamide | NC1=C(C=C(C=C1)C#N)S(=O)(=O)N | C7H7N3O2S
reactant | 2-(4-chloro-2-methoxy-phenyl)-ethenesulfonyl chloride | ClC1=CC(=C(C=C1)C=CS(=O)(=O)Cl)OC | C9H8Cl2O3S
product | (E)-2-(2-(4-Chloro-2-methoxyphenyl)vinylsulfonamido)-5-cyanobenzenesulfonamide | 27% yield | ClC1=CC(=C(C=C1)/C=C/S(=O)(=O)NC1=C(C=C(C=C1)C#N)S(=O)(=O)N)OC | C16H14ClN3O5S2
